OPMODEL1.CIR - OPAMP MODEL SINGLE-POLE
*
VS	1	0	AC	1  PWL(0US 0V  0.01US 1V)
*Close
* R1    2     0    10K
* R2    2     3    10K
* XOP   1 2   3    OPAMP1
*Open
XOP	1 0	3	OPAMP1
RL	3	0	1K
*
* OPAMP MACRO MODEL, SINGLE-POLE
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMP1      1   2   6
* INPUT IMPEDANCE
RIN	1	2	10MEG
* DC GAIN=100K AND POLE1=100HZ
* UNITY GAIN = DCGAIN X POLE1 = 10MHZ
G1   0 3  1 2  100
RP1  3    0    1k
CP1  3    0    1.5915UF
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	5 0	3 0	1
ROUT	5	6	10
.ENDS
*
* ANALYSIS
.AC 	DEC 	10 1 100MEG
* .TRAN 	0.05US  2US
* VIEW RESULTS
* [ltz] removed: .PROBE
.END
